US08710080B2
[4-(5-Aminomethyl-2-fluoro-phenyl)-piperidin-1-yl]-[1-(2-methoxy-ethyl)-4-(morpholine-4-carbonyl)-1H-indol-3-yl]-methanone hydrochloride (100 mg, 0.18 mmol) was dissolved in DMF (2.6 mL) under nitrogen and stirred at 0° C. for 5 min. To this was added sequentially hydroxybenzotriazole (77 mg, 0.57 mmol), BOC-Val-Gly-OH (59 mg, 0.21 mmol), triethylamine (0.05 mL, 0.36 mmol) followed by 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (41 mg, 0.21 mmol). The reaction mixture was warmed to room temperature and stirred overnight. The reaction mixture was diluted with ethyl acetate (30 mL) and washed with brine (30 mL). The brine was back extracted with ethyl acetate (2×30 mL) and the organic fractions were combined and washed with 10% citric acid (2×30 mL), sat sodium bicarbonate solution (2×30 mL) and brine (30 mL). The organic layer was dried over sodium sulfate, filtered and concentrated in vacuo to give the crude product which was purified by SiO2 column chromatography using 5% MeOH/CH2Cl2 as the eluent to afford (1-{[(4-fluoro-3-{1-[1-(2-methoxy-ethyl)-4-(morpholine-4-carbonyl)-1H-indole-3-carbonyl]-piperidin-4-yl}-benzylcarbamoyl)-methyl]-carbamoyl}-2-methyl-propyl)-carbamic acid tert-butyl ester (100 mg, 72%). 1H NMR (300 MHz, CDCl3) δ 7.40-7.30 (m, 2H), 7.28-7.21 (m, 2H), 7.18-7.10 (m, 1H), 7.08-7.00 (m, 1H), 6.98-6.85 (m, 1H), 5.00-4.90 (br s, 1H), 4.30 (t, 2H), 3.85-3.70 (br m, 2H), 3.73 (t, 2H), 3.47 (s, 2H), 3.33 (s, 3H), 3.20-2.90 (br m, 2H), 1.90-1.60 (br m, 6H), 1.30-1.24 (m, 10H), 1.80-1.70 (br m, 6H); 19F NMR (282 MHz, CDCl3) δ −57.60 (s, 1F); MS m/z: [M+H]+=779.

reactant | [4-(5-Aminomethyl-2-fluoro-phenyl)-piperidin-1-yl]-[1-(2-methoxy-ethyl)-4-(morpholine-4-carbonyl)-1H-indol-3-yl]-methanone hydrochloride | 0.18 mmol, 100 mg | Cl.NCC=1C=CC(=C(C1)C1CCN(CC1)C(=O)C1=CN(C2=CC=CC(=C12)C(=O)N1CCOCC1)CCOC)F
reactant | hydroxybenzotriazole | 0.57 mmol, 77 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | BOC-Val-Gly-OH | 0.21 mmol, 59 mg | N([C@@H](C(C)C)C(=O)NCC(=O)O)C(=O)OC(C)(C)C | C12H22N2O5
reactant | triethylamine | 0.36 mmol, 0.05 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.21 mmol, 41 mg | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 2.6 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | (1-{[(4-fluoro-3-{1-[1-(2-methoxy-ethyl)-4-(morpholine-4-carbonyl)-1H-indole-3-carbonyl]-piperidin-4-yl}-benzylcarbamoyl)-methyl]-carbamoyl}-2-methyl-propyl)-carbamic acid tert-butyl ester | 100 mg, 72% | C(C)(C)(C)OC(NC(C(C)C)C(NCC(NCC1=CC(=C(C=C1)F)C1CCN(CC1)C(=O)C1=CN(C2=CC=CC(=C12)C(=O)N1CCOCC1)CCOC)=O)=O)=O | C41H55FN6O8
